US07786108B2
Synthesis of (S)-(3,5-Bis-trifluoromethyl-benzyl)-(7-methyl-1-pyridin-4-ylmethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine hydrochloride
Add 1.0 N HCl in ethyl ether (0.0500 mL) to a solution of (S)-(3,5-Bis-trifluoromethyl-benzyl)-(7-methyl-1-pyridin-4-ylmethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine (0.0230 mg, 0.0357 mmole) in ethyl ether (0.500 mL), stir for 10 minutes. Evaporate the solvent to provide the title compound. MS (ES+): 644 (M+H).

reactant | HCl | 1.0 N | Cl | ClH
reactant | (S)-(3,5-Bis-trifluoromethyl-benzyl)-(7-methyl-1-pyridin-4-ylmethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine | 0.0357 mmole, 0.0230 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)[C@@H]2C3=C(N(CCC2)CC2=CC=NC=C2)C=C(C(=C3)C)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C29H26F9N7
solvent | ethyl ether | 0.0500 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 0.500 mL | C(C)OCC | C4H10O
product | (S)-(3,5-Bis-trifluoromethyl-benzyl)-(7-methyl-1-pyridin-4-ylmethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine hydrochloride | Cl.FC(C=1C=C(CN(C=2N=NN(N2)C)[C@@H]2C3=C(N(CCC2)CC2=CC=NC=C2)C=C(C(=C3)C)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C29H26F9N7.ClH/c1-17-10-22-24(4-3-9-44(15-18-5-7-39-8-6-18)25(22)14-23(17)29(36,37)38)45(26-40-42-43(2)41-26)16-19-11-20(27(30,31)32)13-21(12-19)28(33,34)35;/h5-8,10-14,24H,3-4,9,15-16H2,1-2H3;1H/t24-;/m0./s1
